US04418068
6-hydroxy-2-(4-cycloheptylcarbonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene
6-benzoyloxy-2-(4-ethoxycarbonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, phthalate

reactant | 6-benzoyloxy-2-(4-ethoxycarbonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC(=O)OCC)C1 | C38H35NO7S
reactant | phthalate | C(C=1C(C(=O)[O-])=CC=CC1)(=O)[O-]
product | 6-hydroxy-2-(4-cycloheptylcarbonyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC(=O)C2CCCCCC2)C1 | C36H39NO5S
